US07772234B2
Step F: Preparation of 4-amino-5-bromo-2-(2,4-dichlorophenylamino)-3-flourobenzoic acid methyl ester.
To a mixture of 4-azido-5-bromo-2-(2,4-dichlorophenylamino)-3-fluorobenzoic acid methyl ester (2.05 g, 4.72 mmol) in AcOH-CH2Cl2 (10-30 mL) was added Zn dust (1.59 g, 24.3 mmol) at 0° C. The reaction mixture was warmed to room temperature. The resulting mixture was stirred for 1 hour. The reaction mixture was diluted with CH2Cl2, and washed with water, saturated aqueous NaHCO3 (2×), water, and brine. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give the crude material which was purified by silica gel flash column chromatography(3 to 5% EtOAc in hexanes) to afford the desired product (1.24 g, 64%).

reactant | 4-azido-5-bromo-2-(2,4-dichlorophenylamino)-3-fluorobenzoic acid methyl ester | 4.72 mmol, 2.05 g | COC(C1=C(C(=C(C(=C1)Br)N=[N+]=[N-])F)NC1=C(C=C(C=C1)Cl)Cl)=O | C14H8BrCl2FN4O2
solvent | AcOH CH2Cl2 | 10-30 mL | CC(=O)O.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Zn | 24.3 mmol, 1.59 g | [Zn] | Zn
product | 4-amino-5-bromo-2-(2,4-dichlorophenylamino)-3-flourobenzoic acid methyl ester | 1.24 g, 64% | COC(C1=C(C(=C(C(=C1)Br)N)F)NC1=C(C=C(C=C1)Cl)Cl)=O | C14H10BrCl2FN2O2
